Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pericardial Effusion
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ man with history of follicular lymphoma who presents
for evaluation of pericardial effusion. He was in his usual 
state
of health until today, when he obtained outpatient CT of the
abdomen and pelvis for surveillance of his follicular lymphoma.
On that scan, a pericardial effusion was incidentally noted. He
then underwent echocardiography which showed signs of early
sonographic tamponade, and was referred to the ED for 
evaluation.
He otherwise feels well and denies fevers, chills, upper
respiratory symptoms, or shortness of breath. He has not had
syncope or presyncope. He does state he has mild chest pain on
that side, but it is a twinge not associated with exertion or
relieved by rest, and he had it many times in the past. He
otherwise feels well.

In the ED initial vitals were: 97.6 60 142/74 16 100% RA  
Exam: 
well appearing
no JVD, cor no friction rub
pulm unremarkable
POCUS without e/o tamponade, wall motion anomalies
EKG: sinus, HR 55, QTC 420, low voltages, no acute ST changes 
Labs/studies notable for:  anemia to 11.3, normal chemistry 
panel

Vitals on transfer: 65  133/85  18  100% RA  
 
On the floor, he reports feeling well.  He reports a slight left
sided muscular twinge over his chest which has been present for 
a
long time, no change in nature, nonexertional, non-pleuritic.  
He
denies any fevers, chills, sick contacts.  He did go to the
___ about a month ago.  He has had no new bleeding,
bruising, new palpable nodes or masses.
 
Past Medical History:
 1. CARDIAC RISK FACTORS  
- HTN 
- HLD
- Sleep Apnea  

 2. CARDIAC HISTORY  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 - Paroxysmal A. fib status post ablation no longer on
anticoagulation

 3. OTHER PAST MEDICAL HISTORY  
-Grade ___ follicular lymphoma ___, with several 
enlarged
LN, left axillary nodes measuring 9 mm x 11 mm and 10 mm x 12
mm,previously 9 mm x 10 mm and 8 mm x 9 mm.
-Prostatic intraepithelial neoplasia
-GERD 
-Basal Cell Carcinoma 
-Varicose Veins
-anemia 
-Family hx of Melanoma and Lymphoma 
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  Mother died of melanoma when ___, Father
died of esophageal CA, 1 brother with renal CA and lymphoma, 1
brother with prostate CA.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
==============================
VITALS: 98.3   118 / 69  58 16 95 RA
Pulsus 5-6 mm Hg 
GENERAL: Well-developed, in NAD  Mood, affect appropriate.  
HEENT: PERRL, EOMI. Conjunctiva pink, MMM
NECK: Supple with JVP of 10 cm at 45 degrees, no palpable
cervical LAD
CARDIAC: RRR, normal S1, S2. No murmurs/rubs
LUNGS: Respirations are unlabored, clear to auscultation
bilaterally aside from trace crackles at right base
ABDOMEN: Soft, NTND.   
EXTREMITIES: Warm and well-perfused, 1+ pitting edema to the
ankles bilaterally, no rashes 
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAMINATION:  
==============================
Pulsus 4-6 mm Hg
GENERAL: NAD, resting in bed comfortably  
HEENT: PERRL, EOMI. moist mucous membranes, oropharynx clear 
NECK: no JVP elevation appreciated
CARDIAC: RRR, normal S1, S2. No m/r/g
LUNGS: CTAB, no wheezing/rales/rhonchi 
ABDOMEN: soft, non-distended, non-tender, normoactive BS 
EXTREMITIES: warm, non-edematous, non-tender bilaterally 
PULSES: Distal pulses palpable and symmetric  
NEURO: A&Ox3, strength symmetric bilaterally, sensation intact 
to light touch
 
Pertinent Results:
ADMISSION LABS 
==============
___ 09:30PM BLOOD WBC-5.0 RBC-3.58* Hgb-11.3* Hct-35.4* 
MCV-99* MCH-31.6 MCHC-31.9* RDW-12.2 RDWSD-44.5 Plt ___
___ 09:30PM BLOOD Neuts-74.2* Lymphs-16.3* Monos-8.5 
Eos-0.6* Baso-0.2 Im ___ AbsNeut-3.69 AbsLymp-0.81* 
AbsMono-0.42 AbsEos-0.03* AbsBaso-0.01
___ 09:30PM BLOOD ___ PTT-31.5 ___
___ 09:30PM BLOOD Glucose-82 UreaN-23* Creat-0.8 Na-142 
K-4.3 Cl-105 HCO3-25 AnGap-12
___ 09:30PM BLOOD Calcium-8.8 Phos-3.5 Mg-2.2

DISCHARGE LABS 
==============
___ 05:10AM BLOOD TSH-2.8
___ 05:10AM BLOOD WBC-3.5* RBC-3.30* Hgb-10.5* Hct-32.8* 
MCV-99* MCH-31.8 MCHC-32.0 RDW-12.3 RDWSD-44.9 Plt ___
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD Glucose-65* UreaN-23* Creat-0.8 Na-145 
K-4.0 Cl-108 HCO3-28 AnGap-9*
___ 05:10AM BLOOD Albumin-3.6 Calcium-8.3* Phos-3.5 Mg-2.3

IMAGING 
=======
TTE ___ 
The left atrial volume index is normal. No atrial septal defect 
is seen by 2D or color Doppler. The estimated right atrial 
pressure is ___ mmHg. Normal left ventricular wall thickness, 
cavity size, and regional/global systolic function (biplane LVEF 
= 59 %). Right ventricular chamber size and free wall motion are 
normal. The aortic root is mildly dilated at the sinus level. 
The ascending aorta is mildly dilated. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are structurally normal. There is no mitral valve 
prolapse. A late systolic jet of mild (1+) mitral regurgitation 
is seen. The estimated pulmonary artery systolic pressure is 
normal. There is a small to moderate sized circumferential 
pericardial effusion with no echocardiographic signs of 
tamponade. 

IMPRESSION: Small-moderate circumferential pericardial effusion 
without echocardiographic signs of tamponade physiology.Normal 
biventricular cavity sizes with preserved regional and global 
biventricular systolic function. Mild mitral regurgitation. 
Mildly dilated ascending aorta. 

If clinically indicated, serial evaluation is suggested. 

CLINICAL IMPLICATIONS: 
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data. 
 
Brief Hospital Course:
___ yo man with hx of HTN, pAFib s/p ablation not on 
anticoagulation and Stage ___ Follicular Lymphoma, admitted for 
finding of new pericardial effusion, without evidence of 
tamponade on inpatient TTE.

#Pericardial Effusion: Large pericardial effusion was 
incidentally noted on outpatient CT of the abdomen and pelvis 
for surveillance of his follicular lymphoma. He was sent to the 
ED after wet read of atrius TTE was concerning for tamponade. 
TTE was repeated formally inpatient and showed a small/moderate 
effusion without tamponade. Given that he had no other 
significant cardiac history or MI, normal TSH, no recent 
infections, his effusion may have been related to his indolent 
lymphoma. Sampling of fluid was discussed with interventional 
cardiology, and it was determined that the amount of fluid was 
too small to drain. Patient remained hemodynamically stable and 
asymptomatic throughout his stay. Home antihypertensives 
intiially were held then restarted on HD1. 

#Follicular lymphoma: Outpatient CT scan ___ with worsening of 
mediastinal, abdominal and pelvic lymphadenopathy, enlarging 
pulmonary nodule. Anemia slightly worse this admission compared 
to prior (hgb 10.5 from 11.8). Will f/u as outpatient for 
ongoing monitoring, no indication for urgent treatment.

CHRONIC ISSUES: 

#HTN: initially held lisinopril, restarted after tamponade ruled 
out on TTE. 

#Hx of Afib: Initially held metoprolol, restarted after formal 
TTE without tamponade. In NSR.

#HLD: continued pravastatin

#OSA: CPAP

TRANSITIONAL ISSUES:
[ ] Patient will need repeat TTE to reevaluate pericardial 
effusion in ___ weeks
[ ] Pt to f/u with atrius oncology re recent CT chest findings: 
"IMPRESSION: Disease progression - worsening of mediastinal, 
abdominal and pelvic lymphadenopathy, enlarging pulmonary nodule 
and large pericardial effusion, incompletely imaged. Consider 
chest CT with IV contrast recommended."

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Lisinopril 5 mg PO QHS 
3. Metoprolol Succinate XL 25 mg PO BID 
4. Pravastatin 80 mg PO QPM 

 
Discharge Medications:
1.  Lisinopril 10 mg PO DAILY  
2.  Lisinopril 5 mg PO QHS  
3.  Metoprolol Succinate XL 25 mg PO BID  
4.  Pravastatin 80 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: pericardial effusion, follicular lymphoma
SECONDARY DIAGNOSES: hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to care for you at the ___ 
___.  

Why did you come to the hospital?  
 -  You had a fluid around your heart. 

What did you receive in the hospital?  
 -  You had an echocardiogram to figure out if the fluid was 
causing any problems for your heart. 
 -  The fluid in your heart did not require drainage, but needs 
monitoring by your cardiologist. 

What should you do once you leave the hospital?  
-Take all of your medications as prescribed.
-Follow up with all of your doctors as recommended below. 
-It is important to remain hydrated, please continue to drink 
lots of water. 

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___